US08221904B2
(i) Synthesis of 3-bromobenzoylhydrazine
After 10 grams (44 mmol) of ethyl-3-bromobenzoate were placed into a 200 mL, three-neck flask, 50 mL of ethanol was added thereto and the mixture was stirred; 12 mL of hydrazine monohydrate was added, this mixture was stirred at 78° C. for 5 hours, and the contents of the flask were reacted together. After the reaction was completed, a solid was precipitated out with the addition of water to the reaction solution. The precipitate solid was removed by suction filtration. With the suction-filtered solid being placed into approximately 500 mL of water and washed and a solid removed by suction filtration, 8.1 grams of a white-colored solid, which was the objective of the synthesis process, were obtained at a yield of 86%.

reactant | ethyl-3-bromobenzoate | 44 mmol, 10 grams | C(C)OC(C1=CC(=CC=C1)Br)=O | C9H9BrO2
reactant | hydrazine monohydrate | 12 mL | O.NN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-bromobenzoylhydrazine | yield of 86% | BrC=1C=C(C(=O)NN)C=CC1 | C7H7BrN2O
